US07956195B2
Alternatively, a 3 L three-necked round-bottomed flask equipped with a temperature probe and a nitrogen bubbler was charged with 4-bromophenylboronic acid (100 g, 498 mmol) and hydroxy[(S)-BINAP]rhodium(I) dimer (6.20 g, 4.17 mmol) in dioxane (1667 mL) and water (167 mL) at room temperature. The resulting suspension was degassed with nitrogen and 2-cyclopenten-1-one (27.8 mL, 332 mmol) was added in one portion. The mixture was further degassed for 5 minutes and heated at 35° C. for about 16 hours. The reaction mixture was cooled to room temperature and concentrated. The brown residue was treated with EtOAc (500 mL) and filtered. The filtrate was washed with a saturated solution of NaHCO3 (500 mL) and brine (500 mL), dried over MgSO4, filtered, and concentrated to afford a dark brown solid. The crude reaction product was purified by silica gel chromatography (1:9 EtOAc:heptane as eluant). Fractions containing product were combined and concentrated to afford (S)-3-(4-bromo-phenyl)-cyclopentanone (70.4 g, 89%, 95% ee as determined by chiral HPLC) as an ivory solid.

reactant | 4-bromophenylboronic acid | 498 mmol, 100 g | BrC1=CC=C(C=C1)B(O)O | C6H6BBrO2
reactant | water | 167 mL | O | H2O
reactant | 2-cyclopenten-1-one | 332 mmol, 27.8 mL | C1(C=CCC1)=O | C5H6O
solvent | dioxane | 1667 mL | O1CCOCC1 | C4H8O2
product | (S)-3-(4-bromo-phenyl)-cyclopentanone | 70.4 g, 89% | BrC1=CC=C(C=C1)[C@@H]1CC(CC1)=O | C11H11BrO
